US08975282B2
Step 1) 1-chloro-4,5-difluoro-2-nitrobenzene
To a flask was added 4-chloro-1,2-difluorobenzene (8.97 g, 60.4 mmol), followed by adding 98% con. H2SO4(16.1 mL, 302 mmol) and 65% con. HNO3 (5.0 mL, 66.4 mmol) at 0° C. The mixture was stirred at rt for 5 hours, then poured into ice water (500 mL). The resulted mixture was extracted with ethyl acetate (200 mL×3). The combined organic phase were washed with saturated aqueous NaHCO3 solution (200 mL×2) and brine (200 mL), dried over anhydrous Na2SO4, and concentrated in vacuo to give the title compound as yellow liquid (11.31 g, 96.7%).

reactant | 4-chloro-1,2-difluorobenzene | 60.4 mmol, 8.97 g | ClC1=CC(=C(C=C1)F)F | C6H3ClF2
reactant | H2SO4 | 302 mmol, 16.1 mL | OS(=O)(=O)O | H2O4S
reactant | HNO3 | 66.4 mmol, 5.0 mL | [N+](=O)(O)[O-] | HNO3
product | 1-chloro-4,5-difluoro-2-nitrobenzene | 11.31 g, 96.7% | ClC1=C(C=C(C(=C1)F)F)[N+](=O)[O-] | C6H2ClF2NO2
